US05028738
A 3N aqueous solution (0.76 ml) of sodium hydroxide and 3.0 ml of tetrahydrofuran were added to 0.30 g (1.39 mmoles) of sodium 2-oxo-3-phenylpentanoate, and the mixture was stirred until a completely uniform solution formed. Then, 0.24 ml (2.8 mmoles) of allyl bromide and 36 mg (0.16 mmole) of triethylbenzylammonium chloride were added, and the mixture reacted at room temperature for 25 hours. The reaction mixture was acidified with 1N hydrochloric acid, and extracted with ether. The ether layer was dried over magnesium sulfate. The drying reagent was separated by filtration, and the solvent was evaporated. The NMR spectral analysis of the resulting oily product led to the determination that 2-oxo-3-ethyl-3-phenyl-5-hexynoic acid formed in a yield of 80 %. Then, 1.3 ml of a 1N aqueous solution of sodium hydroxide was added to this product, and the mixture was concentrated under reduced pressure. Ether was added, and the precipitated white solid was isolated by filtration to give 0.086 g (0.34 mmole) of sodium 2-oxo-3-ethyl-3-phenyl-5-hexynoate formed in a yield of 24 %.

reactant | sodium hydroxide | [OH-].[Na+]
reactant | sodium 2-oxo-3-phenylpentanoate | 1.39 mmoles, 0.30 g | O=C(C(=O)[O-])C(CC)C1=CC=CC=C1.[Na+]
reactant | allyl bromide | 2.8 mmoles, 0.24 ml | C(C=C)Br | C3H5Br
reactant | hydrochloric acid | 1N | Cl | ClH
reactant | tetrahydrofuran | 3.0 ml | O1CCCC1 | C4H8O
catalyst | triethylbenzylammonium chloride | 0.16 mmole, 36 mg | [Cl-].C(C)[N+](CC1=CC=CC=C1)(CC)CC
product | sodium 2-oxo-3-ethyl-3-phenyl-5-hexynoate | 0.34 mmole, 0.086 g, yield of 80 % | O=C(C(=O)[O-])C(CC#C)(C1=CC=CC=C1)CC.[Na+] | InChI=1S/C14H14O3.Na/c1-3-10-14(4-2,12(15)13(16)17)11-8-6-5-7-9-11;/h1,5-9H,4,10H2,2H3,(H,16,17);/q;+1/p-1
